US07439246B2
E) 4-(2-Fluoro-4-nitrophenoxy)-2-methyl-1H-pyrrolo[2,3-b]pyridine
A mixture of 2-methyl-1H-pyrrolo[2,3-b]pyridin-4-ol (90 mg, TFA salt, 0.34 mmol), 3,4-difluoronitrobenzene (0.05 mL) and potassium carbonate (100 mg, 0.72 mmol) in DMF (1 mL) was stirred at 50° C. for 2 h. The mixture was diluted with water and extracted with ethyl acetate (3×5 mL). The combined extracts were washed with water, dried (MgSO4) and concentrated in vacuo to afford the crude product, which was purified by preparative HPLC to give the title compound (45 mg, 46%). 1H NMR (CD3OD) δ 8.25 (dd, 2H, J=10.4, 2.6 Hz), 8.12 (m, 1H), 8.04 (d, 1H, J=5.5 Hz), 7.30 (t, 1H, J=8.3 Hz), 6.67 (d, 1H, J=5.5 Hz), 5.95 (s, 1H), 2.41 (s, 3H); MS(ESI+) m/z 288 (M+H)+.

reactant | 2-methyl-1H-pyrrolo[2,3-b]pyridin-4-ol | 0.34 mmol, 90 mg | CC1=CC2=C(N=CC=C2O)N1 | C8H8N2O
reactant | 3,4-difluoronitrobenzene | 0.05 mL | FC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3F2NO2
reactant | potassium carbonate | 0.72 mmol, 100 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-(2-Fluoro-4-nitrophenoxy)-2-methyl-1H-pyrrolo[2,3-b]pyridine | 45 mg, 46% | FC1=C(OC2=C3C(=NC=C2)NC(=C3)C)C=CC(=C1)[N+](=O)[O-] | C14H10FN3O3
